US08293768B2
To a stirred mixture of 5-amino-3-methylthiophene-2-carboxylate (11.87 g, 64.08 mmol) and pyridine (5.70 mL, 70.48 mml) in dichloromethane (140 mL) at 0° C. was added dropwise phenyl chloroformate (8.90 mL, 70.71 mmol). The resulting reaction mixture was stirred at ambient temperature for 30 minutes, and then quenched with water (200 mL). The aqueous layer was extracted with dichloromethane (2×200 mL), and the combined organic layer was dried over sodium sulfate, filtered and concentrated in vacuo. The residue was triturated with dichloromethane in hexanes to afford ethyl 3-methyl-5-(phenoxycarbonylamino)thiophene-2-carboxylate as a colorless solid (18.89 g, 96%): MS (ES+) m/z 306.1 (M+1).

reactant | 5-amino-3-methylthiophene-2-carboxylate | 64.08 mmol, 11.87 g | NC1=CC(=C(S1)C(=O)[O-])C
reactant | pyridine | 5.70 mL | N1=CC=CC=C1 | C5H5N
reactant | phenyl chloroformate | 70.71 mmol, 8.90 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | dichloromethane | 140 mL | ClCCl | CH2Cl2
product | ethyl 3-methyl-5-(phenoxycarbonylamino)thiophene-2-carboxylate | 18.89 g, 96% | CC1=C(SC(=C1)NC(=O)OC1=CC=CC=C1)C(=O)OCC | C15H15NO4S
